US07179811B2
A mixture of (±)-1,1-dimethylethyl 4-[[1-[(6-bromo-2-pyridinyl]ethoxymethyl]-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate (0.00189 mol) (interm. 33), Pd (0.026 g), (R)-(+)-2,2′-bis(diphenyl-phosphino)-1,1′-binaphtyl (0.046 g) and NH(CH3)2 gas (10 g) in tetrahydrofuran (200 ml) was stirred in an autoclave at 100° C. for 16 hours under pressure of CO (30 atm). The mixture was filtered and the filtrate was evaporated. The residue was purified over silica gel on a glass filter (eluent: CH2Cl2/(CH3OH/NH3) 99/1). The pure fractions were collected and the solvents was evaporated, yielding 0.8 g of (±)-1,1-dimethylethyl 4-[[1-[[6-(dimethylamino)-2-pyridinyl]ethoxymethyl]-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate (86%) (interm. 14).

reactant | (±)-1,1-dimethylethyl 4-[[1-[(6-bromo-2-pyridinyl]ethoxymethyl]-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate | 0.00189 mol | BrC1=CC=CC(=N1)CCOCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C25H32BrN5O3
reactant | NH(CH3)2 | 10 g | N(C)C | C2H7N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | Pd | 0.026 g | [Pd] | Pd
product | (±)-1,1-dimethylethyl 4-[[1-[[6-(dimethylamino)-2-pyridinyl]ethoxymethyl]-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate | 0.8 g, 86% | CN(C1=CC=CC(=N1)CCOCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C)C | C27H38N6O3
